US06559167B1
[3-(Morpholin-4-yl) propoxy] benzene-4-sulfonyl chloride was prepared by chlorosulfonylation of 4-(3-phenoxypropyl)morpholine using chlorosulfonic acid in the presence of dichloromethane or chloroform. For example, to a solution of 2.2 g (10 mmole) of N-(3-phenoxypropyl) morpholine in 20 ml of chloroform, 2 ml of chlorosulfonic acid (30 mmole) was slowly added at −10° C. and stirred for 30 min. The reaction mixture was stirred at room temperature for 5 hr. Chloroform was removed from lower layer. Lower layer was treated with chopped-ice to give solids. To a mixture of ice and solid product, 10 g of sodium phosphate (tribasic) was added and stirred with cooling. Chlorosulfonyl compound was extracted with dichloromethane (300 ml). Dichloromethane extract was dried over anhydrous magnesium sulfate and evaporated under reduced pressure. 1.6 g of [3-(morpholin-4-yl) propoxy]benzene-4-sulfonyl chloride was obtained.

reactant | 4-(3-phenoxypropyl)morpholine | O(C1=CC=CC=C1)CCCN1CCOCC1 | C13H19NO2
reactant | chlorosulfonic acid | ClS(=O)(=O)O | ClHO3S
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | N-(3-phenoxypropyl) morpholine | 10 mmole, 2.2 g | O(C1=CC=CC=C1)CCCN1CCOCC1 | C13H19NO2
reactant | chlorosulfonic acid | 30 mmole, 2 ml | ClS(=O)(=O)O | ClHO3S
reactant | sodium phosphate | 10 g | P(=O)([O-])([O-])[O-].[Na+].[Na+].[Na+]
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | [3-(morpholin-4-yl) propoxy]benzene-4-sulfonyl chloride | 1.6 g | N1(CCOCC1)CCCOC1=CC=C(C=C1)S(=O)(=O)Cl | C13H18ClNO4S
